US07244843B2
Step B. Preparation N,N-diethyl-4-[(1,1-dimethyethyl)dimethysilyl]oxy-2-(trifluormethoxy)benzamide
To a stirring solution of N,N-diethyl-4-hydroxy-2-(trifluormethoxy)benzamide (1876 mg, 6.8 mmol) and diisopropylethylamine (1747 mg, 13.5 mmol) in dry DMF (60 mL) was added chloro(1,1-dimethylethyl)dimethylsilane (1123 mg, 7.5 mmol). The reaction was stirred for 16 h and then quenched with 1M HCl. The reaction was extracted with EtOAc (3×50 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a pale yellow oil. The oil was purified by flash chromatography (silica gel, 0–40% EtOAc in hexanes) to give 1941 mg of the desired product as a colorless oil. MS (ESI) 392 (M+H).

reactant | N,N-diethyl-4-hydroxy-2-(trifluormethoxy)benzamide | 6.8 mmol, 1876 mg | C(C)N(C(C1=C(C=C(C=C1)O)OC(F)(F)F)=O)CC | C12H14F3NO3
reactant | diisopropylethylamine | 13.5 mmol, 1747 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloro(1,1-dimethylethyl)dimethylsilane | 7.5 mmol, 1123 mg | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | N,N-diethyl-4-[(1,1-dimethyethyl)dimethysilyl]oxy-2-(trifluormethoxy)benzamide | 1941 mg | C(C)N(C(C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)OC(F)(F)F)=O)CC | C18H28F3NO3Si
